US07932246B2
Ethyl 2-[5-(tert-butoxycarbonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyridine-5-carboxylate
To a solution of tert-butyl hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylate (1.11 g, 5.23 mmol) in dioxane were added ethyl 6-chloronicotinate (1.28 g, 6.9 mmol) and DIPEA (2 ml, 11.6 mmol). The mixture was heated at 75° C. for 3 days. The mixture was then poured into EtOAc (100 ml) and washed with saturated ammonium chloride (50 ml), water (50 ml) and brine (50 ml). The organic fraction was dried (MgSO4), concentrated and purified by flash column chromatography (5% MeOH-DCM) to yield the title compound (1.429 g, 75%). m/z 362.25 [M+H]+; 1H NMR (300 MHz, CDCl3) δ: 8.32 (1H, dd, J=0.6, 2.1 Hz), 8.03 (1H, dd, J=2.4, 9.0 Hz), 6.32 (1H, d, J=8.7 Hz), 4.34 (2H, q, J=6.9 Hz), 3.24-3.85 (8H, m), 3.03 (2H, m), 1.47 (9H, s), 1.38 (3H, t, J=7.2 Hz).

reactant | tert-butyl hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylate | 5.23 mmol, 1.11 g | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | ethyl 6-chloronicotinate | 6.9 mmol, 1.28 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | DIPEA | 11.6 mmol, 2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 2-[5-(tert-butoxycarbonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyridine-5-carboxylate | 1.429 g, 75% | C(C)(C)(C)OC(=O)N1CC2C(C1)CN(C2)C2=NC=C(C=C2)C(=O)OCC | C19H27N3O4
